US04849526
2-Bromoethylamine hydrobromide (12.35 g, 60 mmol) was dissolved in water (30 mL) at room temperature (20° C.) with stirring, and dimethyl 1,3-acetonedicarboxylate (10.0 g, 57 mmol) was added. After 5-10 minutes, solid anhydrous sodium acetate (14.35 g, 175 mmol) was added, and stirring continued. After approximately 80 minutes, precipitation of dimethyl 3-(2-bromoethylamino)-2-pentenedioate began, and the solution was stirred for 17 hours at room temperature. The thick slurry was diluted with cold water (20 mL), and aged at 0°-50° C. for 30 minutes and filtered, and the precipitate washed with cold (0°-5° C.) water (50 mL) and dried to constant weight, to afford 13.9 g (86% yield) of dimethyl 3-(2-bromoethylamino)-2-pentenedioate as a white solid, m.p. 71°-72° C.

reactant | 2-Bromoethylamine hydrobromide | 60 mmol, 12.35 g | Br.BrCCN
reactant | dimethyl 1,3-acetonedicarboxylate | 57 mmol, 10.0 g | COC(=O)CC(=O)CC(=O)OC | C7H10O5
reactant | sodium acetate | 175 mmol, 14.35 g | C(C)(=O)[O-].[Na+]
solvent | water | 30 mL | O | H2O
product | dimethyl 3-(2-bromoethylamino)-2-pentenedioate | 13.9 g, 86% yield | BrCCNC(=CC(=O)OC)CC(=O)OC | C9H14BrNO4
